** sch_path: /Users/wulff/data/2023/aicex/ip/lelo_gr01_sky130a/design/LELO_GR01_SKY130A/tt_um_lelo_gr01_analogicus.sch
.subckt tt_um_lelo_gr01_analogicus uo_out<7> uo_out<6> uo_out<5> uo_out<4> uo_out<3> uo_out<2>
+ uio_out<7> uio_out<6> uio_out<5> uio_out<4> uio_out<3> uio_out<2> uio_out<1> uio_out<0> uio_oe<7> uio_oe<6> uio_oe<5> uio_oe<4> uio_oe<3> uio_oe<2> uio_oe<1> uio_oe<0> VDPWR VGND
+ ui_in<7> ui_in<6> ui_in<5> ui_in<4> ui_in<3> ui_in<2> ui_in<1> ui_in<0> uio_in<7> uio_in<6> uio_in<5> uio_in<4> uio_in<3> uio_in<2> uio_in<1> uio_in<0> ena rst_n clk uo_out<0> uo_out<1>
*.opin uo_out<7> uo_out<6> uo_out<5> uo_out<4> uo_out<3> uo_out<2>
*.opin uio_out<7> uio_out<6> uio_out<5> uio_out<4> uio_out<3> uio_out<2> uio_out<1> uio_out<0>
*.opin uio_oe<7> uio_oe<6> uio_oe<5> uio_oe<4> uio_oe<3> uio_oe<2> uio_oe<1> uio_oe<0>
*.ipin VDPWR
*.ipin VGND
*.ipin ui_in<7> ui_in<6> ui_in<5> ui_in<4> ui_in<3> ui_in<2> ui_in<1> ui_in<0>
*.ipin uio_in<7> uio_in<6> uio_in<5> uio_in<4> uio_in<3> uio_in<2> uio_in<1> uio_in<0>
*.ipin ena
*.ipin rst_n
*.ipin clk
*.opin uo_out<0>
*.opin uo_out<1>
x8 VDPWR VGND JNWTR_TAPCELLB_CV
x9 TIE_H VDPWR VGND JNWTR_TIEH_CV
R1<7> TIE_H uio_oe<7> sky130_fd_pr__res_generic_m4 W=0.3 L=0.3 m=1
R1<6> TIE_H uio_oe<6> sky130_fd_pr__res_generic_m4 W=0.3 L=0.3 m=1
R1<5> TIE_H uio_oe<5> sky130_fd_pr__res_generic_m4 W=0.3 L=0.3 m=1
R1<4> TIE_H uio_oe<4> sky130_fd_pr__res_generic_m4 W=0.3 L=0.3 m=1
R1<3> TIE_H uio_oe<3> sky130_fd_pr__res_generic_m4 W=0.3 L=0.3 m=1
R1<2> TIE_H uio_oe<2> sky130_fd_pr__res_generic_m4 W=0.3 L=0.3 m=1
R1<1> TIE_H uio_oe<1> sky130_fd_pr__res_generic_m4 W=0.3 L=0.3 m=1
R1<0> TIE_H uio_oe<0> sky130_fd_pr__res_generic_m4 W=0.3 L=0.3 m=1
x1 VDPWR uo_out<0> net1 VGND LELO_GR01
x2 VDPWR VGND clk pwrup_digital net2 uo_out<1> ui_in<0> uio_out<7> uio_out<6> uio_out<5> uio_out<4> uio_out<3> uio_out<2>
+ uio_out<1> uio_out<0> uo_out<0> digital
x3 rst_n net2 VDPWR VGND JNWTR_IVX1_CV
x4 pwrup_digital ui_in<1> net1 VDPWR VGND JNWTR_ORX1_CV
XD1<2> VGND ui_in<0> sky130_fd_pr__diode_pw2nd_05v5 area=2.025e11 perim=1.8e6
XD1<1> VGND ui_in<1> sky130_fd_pr__diode_pw2nd_05v5 area=2.025e11 perim=1.8e6
XD1<0> VGND rst_n sky130_fd_pr__diode_pw2nd_05v5 area=2.025e11 perim=1.8e6
.ends

* expanding   symbol:  JNW_TR_SKY130A/JNWTR_TAPCELLB_CV.sym # of pins=2
** sym_path: /Users/wulff/data/2023/aicex/ip/lelo_gr01_sky130a/design/JNW_TR_SKY130A/JNWTR_TAPCELLB_CV.sym
** sch_path: /Users/wulff/data/2023/aicex/ip/lelo_gr01_sky130a/design/JNW_TR_SKY130A/JNWTR_TAPCELLB_CV.sch
.subckt JNWTR_TAPCELLB_CV AVDD AVSS
*.iopin AVDD
*.iopin AVSS
XMN1 AVSS AVSS AVSS AVSS JNWTR_NCHDL
XMP1 AVDD AVDD AVDD AVDD JNWTR_PCHDL
.ends


* expanding   symbol:  JNW_TR_SKY130A/JNWTR_TIEH_CV.sym # of pins=3
** sym_path: /Users/wulff/data/2023/aicex/ip/lelo_gr01_sky130a/design/JNW_TR_SKY130A/JNWTR_TIEH_CV.sym
** sch_path: /Users/wulff/data/2023/aicex/ip/lelo_gr01_sky130a/design/JNW_TR_SKY130A/JNWTR_TIEH_CV.sch
.subckt JNWTR_TIEH_CV Y AVDD AVSS
*.iopin Y
*.iopin AVDD
*.iopin AVSS
XMN0 A A AVSS AVSS JNWTR_NCHDL
XMP0 Y A AVDD AVDD JNWTR_PCHDL
.ends


* expanding   symbol:  LELO_GR01_SKY130A/LELO_GR01.sym # of pins=4
** sym_path: /Users/wulff/data/2023/aicex/ip/lelo_gr01_sky130a/design/LELO_GR01_SKY130A/LELO_GR01.sym
** sch_path: /Users/wulff/data/2023/aicex/ip/lelo_gr01_sky130a/design/LELO_GR01_SKY130A/LELO_GR01.sch
.subckt LELO_GR01 VDD_1V8 OSC_TEMP_1V8 PWRUP_1V8 VSS
*.ipin VDD_1V8
*.ipin VSS
*.ipin PWRUP_1V8
*.opin OSC_TEMP_1V8
x7 net1 VREF PWRUP_1V8 VDD_1V8 VSS PWRUP_N_1V8 bandgap
x8 OSC_TEMP_1V8 VDD_1V8 VSS net1 VREF PWRUP_1V8 PWRUP_N_1V8 oscillator
x3 PWRUP_1V8 PWRUP_N_1V8 VDD_1V8 VSS JNWTR_IVX1_CV
.ends


* expanding   symbol:  LELO_GR01_SKY130A/digital.sym # of pins=9
** sym_path: /Users/wulff/data/2023/aicex/ip/lelo_gr01_sky130a/design/LELO_GR01_SKY130A/digital.sym
** sch_path: /Users/wulff/data/2023/aicex/ip/lelo_gr01_sky130a/design/LELO_GR01_SKY130A/digital.sch
.subckt digital VPWR VGND clk pwr rst done request out<7> out<6> out<5> out<4> out<3> out<2> out<1> out<0> oscillator_clk
*.ipin clk
*.ipin rst
*.ipin request
*.ipin oscillator_clk
*.opin pwr
*.opin done
*.opin out<7> out<6> out<5> out<4> out<3> out<2> out<1> out<0>
*.ipin VGND
*.ipin VPWR
.ends


* expanding   symbol:  JNW_TR_SKY130A/JNWTR_IVX1_CV.sym # of pins=4
** sym_path: /Users/wulff/data/2023/aicex/ip/lelo_gr01_sky130a/design/JNW_TR_SKY130A/JNWTR_IVX1_CV.sym
** sch_path: /Users/wulff/data/2023/aicex/ip/lelo_gr01_sky130a/design/JNW_TR_SKY130A/JNWTR_IVX1_CV.sch
.subckt JNWTR_IVX1_CV A Y AVDD AVSS
*.ipin A
*.opin Y
*.ipin AVDD
*.ipin AVSS
XMN0 Y A AVSS AVSS JNWTR_NCHDL
XMP0 Y A AVDD AVDD JNWTR_PCHDL
.ends


* expanding   symbol:  JNW_TR_SKY130A/JNWTR_ORX1_CV.sym # of pins=5
** sym_path: /Users/wulff/data/2023/aicex/ip/lelo_gr01_sky130a/design/JNW_TR_SKY130A/JNWTR_ORX1_CV.sym
** sch_path: /Users/wulff/data/2023/aicex/ip/lelo_gr01_sky130a/design/JNW_TR_SKY130A/JNWTR_ORX1_CV.sch
.subckt JNWTR_ORX1_CV A B Y AVDD AVSS
*.iopin A
*.iopin B
*.iopin Y
*.iopin AVDD
*.iopin AVSS
XXA1 A B YN AVDD AVSS JNWTR_NRX1_CV
XXA2 YN Y AVDD AVSS JNWTR_IVX1_CV
.ends


* expanding   symbol:  JNW_TR_SKY130A/JNWTR_NCHDL.sym # of pins=4
** sym_path: /Users/wulff/data/2023/aicex/ip/lelo_gr01_sky130a/design/JNW_TR_SKY130A/JNWTR_NCHDL.sym
** sch_path: /Users/wulff/data/2023/aicex/ip/lelo_gr01_sky130a/design/JNW_TR_SKY130A/JNWTR_NCHDL.sch
.subckt JNWTR_NCHDL D G S B
*.iopin D
*.iopin G
*.iopin S
*.iopin B
XM1 D G S B sky130_fd_pr__nfet_01v8 L=0.16 W=0.9 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
.ends


* expanding   symbol:  JNW_TR_SKY130A/JNWTR_PCHDL.sym # of pins=4
** sym_path: /Users/wulff/data/2023/aicex/ip/lelo_gr01_sky130a/design/JNW_TR_SKY130A/JNWTR_PCHDL.sym
** sch_path: /Users/wulff/data/2023/aicex/ip/lelo_gr01_sky130a/design/JNW_TR_SKY130A/JNWTR_PCHDL.sch
.subckt JNWTR_PCHDL D G S B
*.iopin D
*.iopin G
*.iopin S
*.iopin B
XM1 D G S B sky130_fd_pr__pfet_01v8 L=0.16 W=0.9 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
.ends


* expanding   symbol:  LELO_GR01_SKY130A/bandgap.sym # of pins=6
** sym_path: /Users/wulff/data/2023/aicex/ip/lelo_gr01_sky130a/design/LELO_GR01_SKY130A/bandgap.sym
** sch_path: /Users/wulff/data/2023/aicex/ip/lelo_gr01_sky130a/design/LELO_GR01_SKY130A/bandgap.sch
.subckt bandgap IPTAT VREF PWRUP_1V8 VDD_1V8 VSS PWRUP_N_1V8
*.ipin VDD_1V8
*.ipin VSS
*.opin IPTAT
*.opin VREF
*.ipin PWRUP_1V8
*.ipin PWRUP_N_1V8
x5 VIN VOUT VDD_1V8 VDD_1V8 LELOATR_LVT_PCH_2C5F0
x3<7> VIP VOUT VDD_1V8 VDD_1V8 LELOATR_LVT_PCH_2C5F0
x3<6> VIP VOUT VDD_1V8 VDD_1V8 LELOATR_LVT_PCH_2C5F0
x3<5> VIP VOUT VDD_1V8 VDD_1V8 LELOATR_LVT_PCH_2C5F0
x3<4> VIP VOUT VDD_1V8 VDD_1V8 LELOATR_LVT_PCH_2C5F0
x3<3> VIP VOUT VDD_1V8 VDD_1V8 LELOATR_LVT_PCH_2C5F0
x3<2> VIP VOUT VDD_1V8 VDD_1V8 LELOATR_LVT_PCH_2C5F0
x3<1> VIP VOUT VDD_1V8 VDD_1V8 LELOATR_LVT_PCH_2C5F0
x3<0> VIP VOUT VDD_1V8 VDD_1V8 LELOATR_LVT_PCH_2C5F0
xd1<4> VOUT VDD_1V8 JNWTR_CAPX1
xd1<3> VOUT VDD_1V8 JNWTR_CAPX1
xd1<2> VOUT VDD_1V8 JNWTR_CAPX1
xd1<1> VOUT VDD_1V8 JNWTR_CAPX1
xd1<0> VOUT VDD_1V8 JNWTR_CAPX1
x2 net1 VIN VSS JNWTR_RPPO8
x3 net19 net1 VSS JNWTR_RPPO4
x4<3> VOUT START_G VS1 VSS LELOATR_LVT_NCH_2C5F0
x4<2> VOUT START_G VS1 VSS LELOATR_LVT_NCH_2C5F0
x4<1> VOUT START_G VS1 VSS LELOATR_LVT_NCH_2C5F0
x4<0> VOUT START_G VS1 VSS LELOATR_LVT_NCH_2C5F0
x6<3> VS1 VS1 net2 VSS LELOATR_LVT_NCH_2C5F0
x6<2> VS1 VS1 net2 VSS LELOATR_LVT_NCH_2C5F0
x6<1> VS1 VS1 net2 VSS LELOATR_LVT_NCH_2C5F0
x6<0> VS1 VS1 net2 VSS LELOATR_LVT_NCH_2C5F0
x7 VSS VIN net2 VDD_1V8 LELOATR_LVT_PCH_2C5F0
x8 VREF VOUT VDD_1V8 VDD_1V8 LELOATR_LVT_PCH_2C5F0
x9 net3 VREF VSS JNWTR_RPPO16
x10 net4 net3 VSS JNWTR_RPPO16
x11 net5 net4 VSS JNWTR_RPPO16
x1 VDD_1V8 VIN VIP VOUT VSS PWRUP_1V8 PWRUP_N_1V8 diffamp_2
x6 net8 net5 VSS JNWTR_RPPO8
x13 IPTAT VOUT VDD_1V8 VDD_1V8 LELOATR_LVT_PCH_2C5F0
x16 VOUT PWRUP_1V8 VDD_1V8 VDD_1V8 LELOATR_LVT_PCH_2C5F0
x17 START_G PWRUP_N_1V8 net16 VDD_1V8 LELOATR_LVT_PCH_2C5F0
x18 START_G VOUT VSS VSS LELOATR_LVT_NCH_2C5F0
x19 net16 PWRUP_N_1V8 net15 VDD_1V8 LELOATR_LVT_PCH_2C5F0
x20 net15 PWRUP_N_1V8 net14 VDD_1V8 LELOATR_LVT_PCH_2C5F0
x21 net14 PWRUP_N_1V8 net13 VDD_1V8 LELOATR_LVT_PCH_2C5F0
x22 net13 PWRUP_N_1V8 net10 VDD_1V8 LELOATR_LVT_PCH_2C5F0
x23 net10 PWRUP_N_1V8 net11 VDD_1V8 LELOATR_LVT_PCH_2C5F0
x24 net11 PWRUP_N_1V8 net12 VDD_1V8 LELOATR_LVT_PCH_2C5F0
x25 net12 PWRUP_N_1V8 net6 VDD_1V8 LELOATR_LVT_PCH_2C5F0
x26 net7 net8 VSS JNWTR_RPPO8
x27 net9 net7 VSS JNWTR_RPPO8
x4 net9 net7 VSS JNWTR_RPPO2
x12 net17 net9 VSS JNWTR_RPPO2
x14 net17 net9 VSS JNWTR_RPPO2
x30 net6 net18 VSS JNWTR_RPPO16
x31 net18 VDD_1V8 VSS JNWTR_RPPO16
x29 net9 net7 VSS JNWTR_RPPO2
x15 net19 VIP VSS Diodes
x28 net17 VSS pnp_fix
.ends


* expanding   symbol:  LELO_GR01_SKY130A/oscillator.sym # of pins=7
** sym_path: /Users/wulff/data/2023/aicex/ip/lelo_gr01_sky130a/design/LELO_GR01_SKY130A/oscillator.sym
** sch_path: /Users/wulff/data/2023/aicex/ip/lelo_gr01_sky130a/design/LELO_GR01_SKY130A/oscillator.sch
.subckt oscillator VOUT_OSC VDD_1V8 VSS IBP_BG VREF_BG PWRUP_1V8 PWRUP_N_1V8
*.ipin VSS
*.ipin VDD_1V8
*.opin VOUT_OSC
*.ipin VREF_BG
*.ipin IBP_BG
*.ipin PWRUP_1V8
*.ipin PWRUP_N_1V8
x1 VDD_1V8 IBP_BG VREF_BG net3 VSS PWRUP_1V8 PWRUP_N_1V8 diffamp_2
xd1<4> VSS IBP_BG JNWTR_CAPX1
xd1<3> VSS IBP_BG JNWTR_CAPX1
xd1<2> VSS IBP_BG JNWTR_CAPX1
xd1<1> VSS IBP_BG JNWTR_CAPX1
xd1<0> VSS IBP_BG JNWTR_CAPX1
x4 IBP_BG net2 VSS VSS LELOATR_LVT_NCH_2C5F0
x5 VOUT_OSC net2 VDD_1V8 net5 VOUT_OSC net4 VSS JNWTR_DFRNQNX1_CV
x6 IBP_BG PWRUP_N_1V8 VSS VSS LELOATR_LVT_NCH_2C5F0
x2 net3 net1 VDD_1V8 VSS JNWTR_IVX1_CV
x3 net1 net2 VDD_1V8 VSS JNWTR_IVX1_CV
x8 net4 PWRUP_N_1V8 VDD_1V8 VDD_1V8 LELOATR_LVT_PCH_2C5F0
x7 net3 PWRUP_N_1V8 VSS VSS LELOATR_LVT_NCH_2C5F0
.ends


* expanding   symbol:  JNW_TR_SKY130A/JNWTR_NRX1_CV.sym # of pins=5
** sym_path: /Users/wulff/data/2023/aicex/ip/lelo_gr01_sky130a/design/JNW_TR_SKY130A/JNWTR_NRX1_CV.sym
** sch_path: /Users/wulff/data/2023/aicex/ip/lelo_gr01_sky130a/design/JNW_TR_SKY130A/JNWTR_NRX1_CV.sch
.subckt JNWTR_NRX1_CV A B Y AVDD AVSS
*.iopin A
*.iopin B
*.iopin Y
*.iopin AVDD
*.iopin AVSS
XMN0 Y A AVSS AVSS JNWTR_NCHDL
XMN1 AVSS B Y AVSS JNWTR_NCHDL
XMP0 N1 A AVDD AVDD JNWTR_PCHDL
XMP1 Y B N1 AVDD JNWTR_PCHDL
.ends


* expanding   symbol:  LELO_ATR_SKY130A/LELOATR_LVT_PCH_2C5F0.sym # of pins=4
** sym_path: /Users/wulff/data/2023/aicex/ip/lelo_gr01_sky130a/design/LELO_ATR_SKY130A/LELOATR_LVT_PCH_2C5F0.sym
** sch_path: /Users/wulff/data/2023/aicex/ip/lelo_gr01_sky130a/design/LELO_ATR_SKY130A/LELOATR_LVT_PCH_2C5F0.sch
.subckt LELOATR_LVT_PCH_2C5F0 D G S B
*.iopin D
*.iopin G
*.iopin S
*.iopin B
XM1 D G S B sky130_fd_pr__pfet_01v8_lvt L=0.94 W=1.92 nf=2 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
.ends


* expanding   symbol:  JNW_TR_SKY130A/JNWTR_CAPX1.sym # of pins=2
** sym_path: /Users/wulff/data/2023/aicex/ip/lelo_gr01_sky130a/design/JNW_TR_SKY130A/JNWTR_CAPX1.sym
** sch_path: /Users/wulff/data/2023/aicex/ip/lelo_gr01_sky130a/design/JNW_TR_SKY130A/JNWTR_CAPX1.sch
.subckt JNWTR_CAPX1 A B
*.iopin A
*.iopin B
XC1 B A sky130_fd_pr__cap_mim_m3_1 W=5 L=5 MF=1 m=1
.ends


* expanding   symbol:  JNW_TR_SKY130A/JNWTR_RPPO8.sym # of pins=3
** sym_path: /Users/wulff/data/2023/aicex/ip/lelo_gr01_sky130a/design/JNW_TR_SKY130A/JNWTR_RPPO8.sym
** sch_path: /Users/wulff/data/2023/aicex/ip/lelo_gr01_sky130a/design/JNW_TR_SKY130A/JNWTR_RPPO8.sch
.subckt JNWTR_RPPO8 N P B
*.iopin P
*.iopin N
*.iopin B
XXA1 N P B JNWTR_RES8
.ends


* expanding   symbol:  JNW_TR_SKY130A/JNWTR_RPPO4.sym # of pins=3
** sym_path: /Users/wulff/data/2023/aicex/ip/lelo_gr01_sky130a/design/JNW_TR_SKY130A/JNWTR_RPPO4.sym
** sch_path: /Users/wulff/data/2023/aicex/ip/lelo_gr01_sky130a/design/JNW_TR_SKY130A/JNWTR_RPPO4.sch
.subckt JNWTR_RPPO4 N P B
*.iopin P
*.iopin N
*.iopin B
XXA1 N P B JNWTR_RES4
.ends


* expanding   symbol:  LELO_ATR_SKY130A/LELOATR_LVT_NCH_2C5F0.sym # of pins=4
** sym_path: /Users/wulff/data/2023/aicex/ip/lelo_gr01_sky130a/design/LELO_ATR_SKY130A/LELOATR_LVT_NCH_2C5F0.sym
** sch_path: /Users/wulff/data/2023/aicex/ip/lelo_gr01_sky130a/design/LELO_ATR_SKY130A/LELOATR_LVT_NCH_2C5F0.sch
.subckt LELOATR_LVT_NCH_2C5F0 D G S B
*.iopin D
*.iopin G
*.iopin S
*.iopin B
XM1 D G S B sky130_fd_pr__nfet_01v8_lvt L=0.94 W=1.92 nf=2 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
.ends


* expanding   symbol:  JNW_TR_SKY130A/JNWTR_RPPO16.sym # of pins=3
** sym_path: /Users/wulff/data/2023/aicex/ip/lelo_gr01_sky130a/design/JNW_TR_SKY130A/JNWTR_RPPO16.sym
** sch_path: /Users/wulff/data/2023/aicex/ip/lelo_gr01_sky130a/design/JNW_TR_SKY130A/JNWTR_RPPO16.sch
.subckt JNWTR_RPPO16 N P B
*.iopin P
*.iopin N
*.iopin B
XXA1 N P B JNWTR_RES16
.ends


* expanding   symbol:  LELO_GR01_SKY130A/diffamp_2.sym # of pins=7
** sym_path: /Users/wulff/data/2023/aicex/ip/lelo_gr01_sky130a/design/LELO_GR01_SKY130A/diffamp_2.sym
** sch_path: /Users/wulff/data/2023/aicex/ip/lelo_gr01_sky130a/design/LELO_GR01_SKY130A/diffamp_2.sch
.subckt diffamp_2 VDD_1V8 VIN VIP VOUT VSS PWRUP_1V8 PWRUP_N_1V8
*.ipin VDD_1V8
*.ipin VIN
*.ipin VIP
*.opin VOUT
*.ipin PWRUP_N_1V8
*.ipin PWRUP_1V8
*.ipin VSS
x1 net1 VIN TAIL VSS LELOATR_LVT_NCH_2C5F0
x2 net1 net1 VDD_1V8 VDD_1V8 LELOATR_LVT_PCH_2C5F0
x4 VOUT net1 VDD_1V8 VDD_1V8 LELOATR_LVT_PCH_2C5F0
x3 VOUT VIP TAIL VSS LELOATR_LVT_NCH_2C5F0
x5 VDD_1V8 TAIL VSS PWRUP_N_1V8 GM_cell_N
x7 net1 PWRUP_1V8 VDD_1V8 VDD_1V8 LELOATR_LVT_PCH_2C5F0
.ends


* expanding   symbol:  JNW_TR_SKY130A/JNWTR_RPPO2.sym # of pins=3
** sym_path: /Users/wulff/data/2023/aicex/ip/lelo_gr01_sky130a/design/JNW_TR_SKY130A/JNWTR_RPPO2.sym
** sch_path: /Users/wulff/data/2023/aicex/ip/lelo_gr01_sky130a/design/JNW_TR_SKY130A/JNWTR_RPPO2.sch
.subckt JNWTR_RPPO2 N P B
*.iopin P
*.iopin N
*.iopin B
XXA1 N P B JNWTR_RES2
.ends


* expanding   symbol:  LELO_GR01_SKY130A/Diodes.sym # of pins=3
** sym_path: /Users/wulff/data/2023/aicex/ip/lelo_gr01_sky130a/design/LELO_GR01_SKY130A/Diodes.sym
** sch_path: /Users/wulff/data/2023/aicex/ip/lelo_gr01_sky130a/design/LELO_GR01_SKY130A/Diodes.sch
.subckt Diodes I1 I2 VSS
*.opin VSS
*.ipin I2
*.ipin I1
XQ1<7> VSS VSS I1 sky130_fd_pr__pnp_05v5_W3p40L3p40 m=1 mult=1
XQ1<6> VSS VSS I1 sky130_fd_pr__pnp_05v5_W3p40L3p40 m=1 mult=1
XQ1<5> VSS VSS I1 sky130_fd_pr__pnp_05v5_W3p40L3p40 m=1 mult=1
XQ1<4> VSS VSS I1 sky130_fd_pr__pnp_05v5_W3p40L3p40 m=1 mult=1
XQ1<3> VSS VSS I1 sky130_fd_pr__pnp_05v5_W3p40L3p40 m=1 mult=1
XQ1<2> VSS VSS I1 sky130_fd_pr__pnp_05v5_W3p40L3p40 m=1 mult=1
XQ1<1> VSS VSS I1 sky130_fd_pr__pnp_05v5_W3p40L3p40 m=1 mult=1
XQ1<0> VSS VSS I1 sky130_fd_pr__pnp_05v5_W3p40L3p40 m=1 mult=1
XQ2 VSS VSS I2 sky130_fd_pr__pnp_05v5_W3p40L3p40 m=1 mult=1
.ends


* expanding   symbol:  LELO_GR01_SKY130A/pnp_fix.sym # of pins=2
** sym_path: /Users/wulff/data/2023/aicex/ip/lelo_gr01_sky130a/design/LELO_GR01_SKY130A/pnp_fix.sym
** sch_path: /Users/wulff/data/2023/aicex/ip/lelo_gr01_sky130a/design/LELO_GR01_SKY130A/pnp_fix.sch
.subckt pnp_fix e VSS
*.opin VSS
*.ipin e
XQ3 VSS VSS e sky130_fd_pr__pnp_05v5_W3p40L3p40 m=1 mult=1
.ends


* expanding   symbol:  JNW_TR_SKY130A/JNWTR_DFRNQNX1_CV.sym # of pins=7
** sym_path: /Users/wulff/data/2023/aicex/ip/lelo_gr01_sky130a/design/JNW_TR_SKY130A/JNWTR_DFRNQNX1_CV.sym
** sch_path: /Users/wulff/data/2023/aicex/ip/lelo_gr01_sky130a/design/JNW_TR_SKY130A/JNWTR_DFRNQNX1_CV.sch
.subckt JNWTR_DFRNQNX1_CV D CK RN Q QN AVDD AVSS
*.iopin D
*.iopin CK
*.iopin RN
*.iopin Q
*.iopin QN
*.iopin AVDD
*.iopin AVSS
XXA0 AVDD AVSS JNWTR_TAPCELLB_CV
XXA1 CK RN CKN AVDD AVSS JNWTR_NDX1_CV
XXA2 CKN CKB AVDD AVSS JNWTR_IVX1_CV
XXA3 D CKN CKB A0 AVDD AVSS JNWTR_IVTRIX1_CV
XXA4 A1 CKB CKN A0 AVDD AVSS JNWTR_IVTRIX1_CV
XXA5 A0 A1 AVDD AVSS JNWTR_IVX1_CV
XXA6 A1 CKB CKN QN AVDD AVSS JNWTR_IVTRIX1_CV
XXA7 Q CKN CKB RN QN AVDD AVSS JNWTR_NDTRIX1_CV
XXA8 QN Q AVDD AVSS JNWTR_IVX1_CV
.ends


* expanding   symbol:  JNW_TR_SKY130A/JNWTR_RES8.sym # of pins=3
** sym_path: /Users/wulff/data/2023/aicex/ip/lelo_gr01_sky130a/design/JNW_TR_SKY130A/JNWTR_RES8.sym
** sch_path: /Users/wulff/data/2023/aicex/ip/lelo_gr01_sky130a/design/JNW_TR_SKY130A/JNWTR_RES8.sch
.subckt JNWTR_RES8 N P B
*.iopin N
*.iopin P
*.iopin B
XR1_0 INT_0 N B sky130_fd_pr__res_high_po W=0.36 L=7.36 mult=1 m=1
XR1_1 INT_1 INT_0 B sky130_fd_pr__res_high_po W=0.36 L=7.36 mult=1 m=1
XR1_2 INT_2 INT_1 B sky130_fd_pr__res_high_po W=0.36 L=7.36 mult=1 m=1
XR1_3 INT_3 INT_2 B sky130_fd_pr__res_high_po W=0.36 L=7.36 mult=1 m=1
XR1_4 INT_4 INT_3 B sky130_fd_pr__res_high_po W=0.36 L=7.36 mult=1 m=1
XR1_5 INT_5 INT_4 B sky130_fd_pr__res_high_po W=0.36 L=7.36 mult=1 m=1
XR1_6 INT_6 INT_5 B sky130_fd_pr__res_high_po W=0.36 L=7.36 mult=1 m=1
XR1_7 P INT_6 B sky130_fd_pr__res_high_po W=0.36 L=7.36 mult=1 m=1
.ends


* expanding   symbol:  JNW_TR_SKY130A/JNWTR_RES4.sym # of pins=3
** sym_path: /Users/wulff/data/2023/aicex/ip/lelo_gr01_sky130a/design/JNW_TR_SKY130A/JNWTR_RES4.sym
** sch_path: /Users/wulff/data/2023/aicex/ip/lelo_gr01_sky130a/design/JNW_TR_SKY130A/JNWTR_RES4.sch
.subckt JNWTR_RES4 N P B
*.iopin N
*.iopin P
*.iopin B
XR1_0 INT_0 N B sky130_fd_pr__res_high_po W=0.36 L=7.36 mult=1 m=1
XR1_1 INT_1 INT_0 B sky130_fd_pr__res_high_po W=0.36 L=7.36 mult=1 m=1
XR1_2 INT_2 INT_1 B sky130_fd_pr__res_high_po W=0.36 L=7.36 mult=1 m=1
XR1_3 P INT_2 B sky130_fd_pr__res_high_po W=0.36 L=7.36 mult=1 m=1
.ends


* expanding   symbol:  JNW_TR_SKY130A/JNWTR_RES16.sym # of pins=3
** sym_path: /Users/wulff/data/2023/aicex/ip/lelo_gr01_sky130a/design/JNW_TR_SKY130A/JNWTR_RES16.sym
** sch_path: /Users/wulff/data/2023/aicex/ip/lelo_gr01_sky130a/design/JNW_TR_SKY130A/JNWTR_RES16.sch
.subckt JNWTR_RES16 N P B
*.iopin N
*.iopin P
*.iopin B
XR1_0 INT_0 N B sky130_fd_pr__res_high_po W=0.36 L=7.36 mult=1 m=1
XR1_1 INT_1 INT_0 B sky130_fd_pr__res_high_po W=0.36 L=7.36 mult=1 m=1
XR1_2 INT_2 INT_1 B sky130_fd_pr__res_high_po W=0.36 L=7.36 mult=1 m=1
XR1_3 INT_3 INT_2 B sky130_fd_pr__res_high_po W=0.36 L=7.36 mult=1 m=1
XR1_4 INT_4 INT_3 B sky130_fd_pr__res_high_po W=0.36 L=7.36 mult=1 m=1
XR1_5 INT_5 INT_4 B sky130_fd_pr__res_high_po W=0.36 L=7.36 mult=1 m=1
XR1_6 INT_6 INT_5 B sky130_fd_pr__res_high_po W=0.36 L=7.36 mult=1 m=1
XR1_7 INT_7 INT_6 B sky130_fd_pr__res_high_po W=0.36 L=7.36 mult=1 m=1
XR1_8 INT_8 INT_7 B sky130_fd_pr__res_high_po W=0.36 L=7.36 mult=1 m=1
XR1_9 INT_9 INT_8 B sky130_fd_pr__res_high_po W=0.36 L=7.36 mult=1 m=1
XR1_10 INT_10 INT_9 B sky130_fd_pr__res_high_po W=0.36 L=7.36 mult=1 m=1
XR1_11 INT_11 INT_10 B sky130_fd_pr__res_high_po W=0.36 L=7.36 mult=1 m=1
XR1_12 INT_12 INT_11 B sky130_fd_pr__res_high_po W=0.36 L=7.36 mult=1 m=1
XR1_13 INT_13 INT_12 B sky130_fd_pr__res_high_po W=0.36 L=7.36 mult=1 m=1
XR1_14 INT_14 INT_13 B sky130_fd_pr__res_high_po W=0.36 L=7.36 mult=1 m=1
XR1_15 P INT_14 B sky130_fd_pr__res_high_po W=0.36 L=7.36 mult=1 m=1
.ends


* expanding   symbol:  LELO_GR01_SKY130A/GM_cell_N.sym # of pins=4
** sym_path: /Users/wulff/data/2023/aicex/ip/lelo_gr01_sky130a/design/LELO_GR01_SKY130A/GM_cell_N.sym
** sch_path: /Users/wulff/data/2023/aicex/ip/lelo_gr01_sky130a/design/LELO_GR01_SKY130A/GM_cell_N.sch
.subckt GM_cell_N VDD_1V8 IBN VSS PWRUP_N_1V8
*.ipin VDD_1V8
*.ipin IBN
*.opin VSS
*.ipin PWRUP_N_1V8
x6 net3 net2 VSS JNWTR_RPPO4
x9<2> IBN net1 VSS VSS LELOATR_LVT_NCH_2C5F0
x9<1> IBN net1 VSS VSS LELOATR_LVT_NCH_2C5F0
x9<0> IBN net1 VSS VSS LELOATR_LVT_NCH_2C5F0
x5 net1 net1 VSS VSS LELOATR_LVT_NCH_2C5F0
x2 net4 net1 VSS VSS LELOATR_LVT_NCH_2C5F0
x1 net1 PWRUP_N_1V8 VSS VSS LELOATR_LVT_NCH_2C5F0
x7 net4 net4 net1 VSS LELOATR_LVT_NCH_2C5F0
x8 net4 net4 net2 net2 LELOATR_LVT_PCH_2C5F0
x3 net1 net4 net3 net3 LELOATR_LVT_PCH_2C5F0
x4 net2 PWRUP_N_1V8 VDD_1V8 VDD_1V8 LELOATR_LVT_PCH_2C5F0
.ends


* expanding   symbol:  JNW_TR_SKY130A/JNWTR_RES2.sym # of pins=3
** sym_path: /Users/wulff/data/2023/aicex/ip/lelo_gr01_sky130a/design/JNW_TR_SKY130A/JNWTR_RES2.sym
** sch_path: /Users/wulff/data/2023/aicex/ip/lelo_gr01_sky130a/design/JNW_TR_SKY130A/JNWTR_RES2.sch
.subckt JNWTR_RES2 N P B
*.iopin N
*.iopin P
*.iopin B
XR1_0 INT_0 N B sky130_fd_pr__res_high_po W=0.36 L=7.36 mult=1 m=1
XR1_1 P INT_0 B sky130_fd_pr__res_high_po W=0.36 L=7.36 mult=1 m=1
.ends


* expanding   symbol:  JNW_TR_SKY130A/JNWTR_NDX1_CV.sym # of pins=5
** sym_path: /Users/wulff/data/2023/aicex/ip/lelo_gr01_sky130a/design/JNW_TR_SKY130A/JNWTR_NDX1_CV.sym
** sch_path: /Users/wulff/data/2023/aicex/ip/lelo_gr01_sky130a/design/JNW_TR_SKY130A/JNWTR_NDX1_CV.sch
.subckt JNWTR_NDX1_CV A B Y AVDD AVSS
*.iopin A
*.iopin B
*.iopin Y
*.iopin AVDD
*.iopin AVSS
XMN0 N1 A AVSS AVSS JNWTR_NCHDL
XMN1 Y B N1 AVSS JNWTR_NCHDL
XMP0 Y A AVDD AVDD JNWTR_PCHDL
XMP1 AVDD B Y AVDD JNWTR_PCHDL
.ends


* expanding   symbol:  JNW_TR_SKY130A/JNWTR_IVTRIX1_CV.sym # of pins=6
** sym_path: /Users/wulff/data/2023/aicex/ip/lelo_gr01_sky130a/design/JNW_TR_SKY130A/JNWTR_IVTRIX1_CV.sym
** sch_path: /Users/wulff/data/2023/aicex/ip/lelo_gr01_sky130a/design/JNW_TR_SKY130A/JNWTR_IVTRIX1_CV.sch
.subckt JNWTR_IVTRIX1_CV A C CN Y AVDD AVSS
*.iopin A
*.iopin C
*.iopin CN
*.iopin Y
*.iopin AVDD
*.iopin AVSS
XMN0 N1 A AVSS AVSS JNWTR_NCHDL
XMN1 Y C N1 AVSS JNWTR_NCHDL
XMP0 N2 A AVDD AVDD JNWTR_PCHDL
XMP1 Y CN N2 AVDD JNWTR_PCHDL
.ends


* expanding   symbol:  JNW_TR_SKY130A/JNWTR_NDTRIX1_CV.sym # of pins=7
** sym_path: /Users/wulff/data/2023/aicex/ip/lelo_gr01_sky130a/design/JNW_TR_SKY130A/JNWTR_NDTRIX1_CV.sym
** sch_path: /Users/wulff/data/2023/aicex/ip/lelo_gr01_sky130a/design/JNW_TR_SKY130A/JNWTR_NDTRIX1_CV.sch
.subckt JNWTR_NDTRIX1_CV A C CN RN Y AVDD AVSS
*.iopin A
*.iopin C
*.iopin CN
*.iopin RN
*.iopin Y
*.iopin AVDD
*.iopin AVSS
XMN2 N1 RN AVSS AVSS JNWTR_NCHDL
XMN0 N2 A N1 AVSS JNWTR_NCHDL
XMN1 Y C N2 AVSS JNWTR_NCHDL
XMP2 AVDD RN N2 AVDD JNWTR_PCHDL
XMP0 N2 A AVDD AVDD JNWTR_PCHDL
XMP1 Y CN N2 AVDD JNWTR_PCHDL
.ends

.end
